US07745438B2
(2R,5R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-phenoxymethylmorpholine-4-carboxylic acid tert-butyl ester
Add triethylamine (0.009 mL, 0.066 mmol) and acetic anhydride (0.004 mL, 0.044 mmol) to a solution of (2R,5R)-(5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-phenoxymethyl-morpholine-4-carboxylic acid tert-butyl ester (0.021 g, 0.044 mmol) in tetrahydrofuran (0.44 mL) and stir at room temperature for 1 hour. Concentrate and purify (silica gel chromatography, eluting with 50:50 to 60:40 ethyl acetate:hexanes) to give the title compound as a white foam (0.010 g, 45.5%).

reactant | triethylamine | 0.066 mmol, 0.009 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.044 mmol, 0.004 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-phenoxymethyl-morpholine-4-carboxylic acid tert-butyl ester | 0.044 mmol, 0.021 g | C(C)(C)(C)OC(=O)N1CC(OCC1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)COC1=CC=CC=C1 | C25H32F2N2O5
solvent | tetrahydrofuran | 0.44 mL | O1CCCC1 | C4H8O
product | (2R,5R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-phenoxymethylmorpholine-4-carboxylic acid tert-butyl ester | 0.010 g, 45.5% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)COC1=CC=CC=C1 | C27H34F2N2O6
